US05514801
To a solution of 4.93 gm (0.0279 mole) of methyl tetrahydro-2H-thiopyran-4-hydroxy-3-carboxylate from part B in anhydrous methylene chloride (25 mL) was added 6.77 mL (0.0837 mole) anhydrous pyridine. The solution was cooled to 0° C., upon which was added 3.25 mL (0.0420 mole) methanesulfonyl chloride, dropwise via syringe. The solution was allowed to warm to room temperature and stirred under N2 for 7.5 hrs. The reaction was then cooled to 0° C. and an additional 0.648 mL (0.00837 mole) of methanesulfonyl chloride was added. The solution was stirred at room temperature an additional 16 hrs. upon which ethyl acetate (125 mL) was added. The organic layer was washed with dilute HCl, saturated sodium bicarbonate, and saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo to give a mixture of the cis and trans mesylate and unreacted methanesulfonyl chloride. The crude mesylate mixture was dissolved in anhydrous methylene chloride (30 mL) upon which was added 12.68 mL (0.0911 mole) triethyl amine. The reaction was stirred under N2 for 7 hrs. upon which was added 8.5 mL (0.061 mole) triethyl amine and the solution stirred 17 more hrs. The organic layer was washed once with dilute acid and once with saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on 300 gm silica gel with 4-25% ethyl acetate in hexane to give 2.76 gm (63%) of methyl 5,6-dihydro-2H-thiopyran-3- carboxylate as a clear oil; mass spectrum m/z=159 (CI,M+H)

reactant | pyridine | 0.0837 mole, 6.77 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.0420 mole, 3.25 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.00837 mole, 0.648 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | triethyl amine | 0.0911 mole, 12.68 mL | C(C)N(CC)CC | C6H15N
reactant | triethyl amine | 0.061 mole, 8.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 5,6-dihydro-2H-thiopyran-3- carboxylate | 2.76 gm, 63% | S1CC(=CCC1)C(=O)OC | C7H10O2S
